US09126993B2
(+/−)-(3S,4S)-1-azabicyclo[2.2.1]hept-3-yl{2-[3-(propan-2-yl)phenyl]propan-2-yl}carbamate
Using general procedure F, (+/−)-(3S,4S)-1-azabicyclo[2.2.1]heptan-3-yl 2-(3-(prop-1-en-2-yl)phenyl)propan-2-ylcarbamate (110 mg, 0.350 mmol) and palladium (20 mg, 20 wt. % on carbon) gave the title compound as an off-white solid (36 mg, 46%). 1H NMR (400 MHz, CDCl3) δ 7.25-7.19 (m, 3H), 7.11 (d, J=8.0 Hz, 1H), 5.19 (s, 1H), 4.91 (s, 1H), 3.44 (t, J=4.0 Hz, 2H) 3.19 (br s, 1H), 3.02 (br s, 1H), 2.89 (m, 2H), 2.69 (br s, 1H), 2.39 (br s, 1H), 1.91 (br s, 1H), 1.66 (br s, 7H) 1.26 (d, J=4.0 Hz, 6H) ppm. 13C NMR (100 MHz, CDCl3) δ 128.5 (2×), 124.8, 123.1 (2×), 122.4 (2×), 77.4, 60.6, 59.4, 55.5, 41.5, 34.5, 29.9, 29.9, 29.5, 24.3 (2×), 21.6 ppm. Purity: >95% UPLCMS (210 nm); retention time 0.88 min; (M+1) 317.

reactant | (+/−)-(3S,4S)-1-azabicyclo[2.2.1]heptan-3-yl 2-(3-(prop-1-en-2-yl)phenyl)propan-2-ylcarbamate | 0.350 mmol, 110 mg | C=C(C)C=1C=C(C=CC1)C(C)(C)NC(O[C@@H]1CN2CC[C@H]1C2)=O | C19H26N2O2
catalyst | palladium | 20 mg | [Pd] | Pd
product | (+/−)-(3S,4S)-1-azabicyclo[2.2.1]hept-3-yl{2-[3-(propan-2-yl)phenyl]propan-2-yl}carbamate | 36 mg, 46% | N12C[C@H]([C@@H](CC1)C2)OC(NC(C)(C)C2=CC(=CC=C2)C(C)C)=O | C19H28N2O2
